* this uses the pmsm.lib. test how to use the .lib file
.title PMSM model with sinusoidal back EMF
.include "../../spice-library/electrical-machines/clark_park.lib"
.include "../../spice-library/electrical-machines/pmsm2.lib"
.include "../../spice-library/electrical-machines/foc.lib"
.include "../../spice-library/electrical-machines/average.lib"
.include "../../spice-library/semiconductors/operational-amplifier/generic_opamp.lib"

**input parameters
.param rs=3.4 
.param ls=12.1e-3 
.param poles=4
.param lambda_m=0.0827
.param J=5e-4
.param Bm=1e-9
.param vbus={30}

***************************Build the voltage sources***************************
vbus vbus 0 DC {vbus}
*Xspvm qs_ref ds_ref theta as bs cs vbus spvm_avg
Xsvm qs_ref ds_ref theta as bs cs vbus spvm
** put a voltage in series with the motor to measure the current
Vas as asm DC 0V
Vbs bs bsm DC 0V
Vcs cs csm DC 0V

*********************** Adding PMSM model ************************************
** add the motor model
Xm asm bsm csm theta rpm tl pmsm
+rs={rs} ls={ls} poles={poles} lambda_m={lambda_m} J={J} Bm={Bm}
** A fan model
Etl tl 0 value={1e-6*v(rpm)*v(rpm)}
*Etl tl 0 value={0.4}

********************** Building the FOC controller ***************************
Eias iasm 0 value={i(vas)}
Eibs ibsm 0 value={i(vbs)}
Eics icsm 0 value={i(vcs)}

Xfoc iasm ibsm icsm rpm theta vbus qs_ref ds_ref controller rpm_ref=500

**for testing uncomment the lines below
*vqs_ref qs_ref 0 DC 0V PWL(0s 0V 0.1us {1/sqrt(3)}) 
*vds_ref ds_ref 0 0
*Vtheta theta 0 DC 0V PWL(0s 0V {1/5} {2*3.14} {1/5} 0V r=0s)
* apply inductive load 
*Lasm asm n 12.1e-3
*Lbsm bsm n 12.1e-3
*Lcsm csm n 12.1e-3
*Ran n 0 1e12

.control
tran 0.1ms 2s 0s uic
*options ngdebug
*options klu
*options reltol=.001
*plot qs_ref ds_ref
*plot v(as) v(bs) v(cs)
plot i(vas) i(vbs) i(vcs)
*plot v(as) i(vas)
*plot v(rpm)
.endc